US07683160B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(3-hydroxy-cyclopent-1-yloxy)-benzyl]-benzene
A mixture of 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene (0.25 g), 3-hydroxy-cyclopent-1-yl p-tolylsulfonate (0.19 g) and cesium carbonate (0.33 g) in dimethylformamide (1.5 mL) is stirred at 70° C. for 16 h. After cooling to ambient temperature, water is added and the resultant mixture is extracted with ethyl acetate. The combined organic phases are dried (Na2SO4), the solvent is removed and the residue is purified by chromatography on silica gel (dichloromethane/methanol 1:0→4:1).

reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-hydroxybenzyl)-benzene | 0.25 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)O | C19H21ClO7
reactant | 3-hydroxy-cyclopent-1-yl p-tolylsulfonate | 0.19 g | C1(=CC=C(C=C1)S(=O)(=O)OC1CC(CC1)O)C | C12H16O4S
reactant | cesium carbonate | 0.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(3-hydroxy-cyclopent-1-yloxy)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)OC1CC(CC1)O | C24H29ClO8
